US08735412B2
(RS)-S-Ethyl-S-(4-{[4-{[(R)-2-hydroxy-1,2-dimethylpropyl]amino}-5-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)sulfoximide
0.36 ml of 4N solution of hydrogen chloride in dioxane was added to 400 mg (1.43 mmol) of (RS)-S-(4-aminophenyl)-S-ethyl-N-(trifluoroacetyl)sulfoximide and 405 mg (1.43 mmol) of (R)-3-(2-chloro-5-trifluoromethyl-pyrimidin-4-ylamino)-2-methyl-butan-2-ol in 7.0 ml acetonitrile and stirred for 4.5 hours at 60° C. The mixture was evaporated to dryness. 25.0 ml methanol and 788 mg (5.70 mmol) of potassium carbonate were added and it was stirred for one hour at room temperature. It was diluted with saturated sodium chloride solution and was extracted with ethyl acetate (2×). The combined organic phases were dried (Na2SO4), filtered and concentrated by evaporation. 620 mg (1.43 mmol) of the raw product was obtained.

reactant | hydrogen chloride | Cl | ClH
reactant | (RS)-S-(4-aminophenyl)-S-ethyl-N-(trifluoroacetyl)sulfoximide | 1.43 mmol, 400 mg | NC1=CC=C(C=C1)S(=O)(=NC(C(F)(F)F)=O)CC | C10H11F3N2O2S
reactant | (R)-3-(2-chloro-5-trifluoromethyl-pyrimidin-4-ylamino)-2-methyl-butan-2-ol | 1.43 mmol, 405 mg | ClC1=NC=C(C(=N1)N[C@@H](C(C)(O)C)C)C(F)(F)F | C10H13ClF3N3O
reactant | potassium carbonate | 5.70 mmol, 788 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | acetonitrile | 7.0 ml | C(C)#N | C2H3N
solvent | sodium chloride | [Cl-].[Na+]
solvent | methanol | 25.0 ml | CO | CH4O
product | (RS)-S-Ethyl-S-(4-{[4-{[(R)-2-hydroxy-1,2-dimethylpropyl]amino}-5-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)sulfoximide | 1.43 mmol, 620 mg | C(C)S(=O)(=N)C1=CC=C(C=C1)NC1=NC=C(C(=N1)N[C@@H](C(C)(C)O)C)C(F)(F)F | C18H24F3N5O2S
